US07297707B2
2,4-Dichloro-N-(3,4-dimethoxy-phenyl)-N-(6-nitro-benzothiazol-2-yl)-benzamide
The title compound was synthesised from (3,4-Dimethoxy-phenyl)-(6-nitro-benzothiazol-2-yl)-amine and 2,4-dichlorobenzoyl chloride (commercially available) according to the procedure described for Example 2. MS (m/e): 504.1 (MH+, 100%).

reactant | (3,4-Dimethoxy-phenyl)-(6-nitro-benzothiazol-2-yl)-amine | COC=1C=C(C=CC1OC)NC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C15H13N3O4S
reactant | 2,4-dichlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
product | 2,4-Dichloro-N-(3,4-dimethoxy-phenyl)-N-(6-nitro-benzothiazol-2-yl)-benzamide | ClC1=C(C(=O)N(C=2SC3=C(N2)C=CC(=C3)[N+](=O)[O-])C3=CC(=C(C=C3)OC)OC)C=CC(=C1)Cl | C22H15Cl2N3O5S
